US05853699
a) 3-[4-Methoxyphenyl]-alanine-tert-butyl ester
7.12 g (30 mmol) of tyrosine-tert-butyl ester is dissolved in 28 ml of anhydrous N,N-dimethylformamide and mixed at 50° C. under argon with 1.21 g (31 mmol) of sodium hydride dispersion (60% in mineral oil). The batch is allowed to stir for 15 minutes, then 4.4 g (31 mmol) of methyl iodide is added, the reaction temperature is allowed to increase to room temperature and it is stirred for another hour. For working-up, the batch is taken up in ethyl acetate and shaken out several times against aqueous sodium bicarbonate solution. The organic phase is separated, dried on magnesium sulfate, filtered and concentrated by evaporation. The residue is chromatographed for purification on silica gel with hexane/diethyl ether/ triethylamine.

reactant | tyrosine-tert-butyl ester | 30 mmol, 7.12 g | C(C)(C)(C)OC([C@@H](N)CC1=CC=C(C=C1)O)=O | C13H19NO3
reactant | sodium hydride | 31 mmol, 1.21 g | [H-].[Na+]
reactant | methyl iodide | 31 mmol, 4.4 g | CI | CH3I
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 28 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[4-Methoxyphenyl]-alanine-tert-butyl ester | C(C)(C)(C)OC([C@@H](N)CC1=CC=C(C=C1)OC)=O | C14H21NO3
